*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EMHS250ARA102MKE0S
*//   Date        : 2024/02/19
*//   Simulator   : P-Spice
*//   Temperature : 20deg-C/-40deg-C/125deg-C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHS250ARA102MKE0S_20deg-C 1 2

C1 4 2 2.15e-04
C2 5 2 6.36e-04
C3 6 2 3.03e-05
R1 3 4 6.50e-02
R2 4 5 2.61e-02
R3 5 6 1.99e+00
L1 1 3 4.70e-09

.ENDS

.SUBCKT EMHS250ARA102MKE0S_-40deg-C 1 2

C1 4 2 7.80e-07
C2 5 2 1.15e-04
C3 6 2 7.04e-04
R1 3 4 5.49e-01
R2 4 5 2.50e-01
R3 5 6 3.29e-01
L1 1 3 4.70e-09

.ENDS
 
.SUBCKT EMHS250ARA102MKE0S_125deg-C 1 2

C1 4 2 3.68e-04
C2 5 2 5.42e-04
C3 6 2 7.51e-05
R1 3 4 2.37e-02
R2 4 5 2.71e-02
R3 5 6 1.64e+00
L1 1 3 4.70e-09

.ENDS
*$